US07214690B2
To a solution of 5-chloro-1,3-phenylenediamine (15.0 g, 0.105 mol) in 70 mL ethanol was added ethyl 4,4,4-trifluoroacetoacetate (20.4 g, 0.111 mol), then the mixture was heated at reflux for 18 h. The solvent was removed under reduced pressure until the product began to precipitate. The material was allowed to crystallize for 2 h, whereupon it was filtered and rinsed with cold ether to afford 10.9 g (37%) of 5-amino-7-chloro-3,4-dihydro-4-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one, a tan solid. The filtrate was concentrated until solid began to precipitate and afforded an additional 3.0 g (10%). 1H NMR (400 MHz, acetone-d6) δ 11.0 (broad s, 1H), 9.64 (s, 1H), 7.42 (t, 1H, J=8.1), 6.99 (d, 1H, J=8.1), 6.90 (s, 1H), 6.79 (d, 1H, J=8.1).

reactant | 5-chloro-1,3-phenylenediamine | 0.105 mol, 15.0 g | ClC=1C=C(C=C(C1)N)N | C6H7ClN2
reactant | ethyl 4,4,4-trifluoroacetoacetate | 0.111 mol, 20.4 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 5-amino-7-chloro-3,4-dihydro-4-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one | 10.9 g, 37% | NC1=C2C(CC(NC2=CC(=C1)Cl)=O)(C(F)(F)F)O | C10H8ClF3N2O2
